US06620839B2
tert-butyl 1-{3-[(4′-cyano[1,1′-biphenyl]-4-yl)oxy]propyl}-3-pyrrolidinylcarbamate
4′-{3-[(3R)-3-Aminopyrrolidinyl]propoxy}[1,1′-biphenyl]-4-carbonitrile and tert-butyl pyrrolidinylcarbamate were processed as described in Examples 9A-9C to provide the title compound.

reactant | 4′-{3-[(3R)-3-Aminopyrrolidinyl]propoxy}[1,1′-biphenyl]-4-carbonitrile | N[C@H]1CN(CC1)CCCOC1=CC=C(C=C1)C1=CC=C(C=C1)C#N | C20H23N3O
reactant | tert-butyl pyrrolidinylcarbamate | N1(CCCC1)NC(OC(C)(C)C)=O | C9H18N2O2
product | tert-butyl 1-{3-[(4′-cyano[1,1′-biphenyl]-4-yl)oxy]propyl}-3-pyrrolidinylcarbamate | C(#N)C1=CC=C(C=C1)C1=CC=C(C=C1)OCCCN1CC(CC1)NC(OC(C)(C)C)=O | C25H31N3O3
